US08183289B2
Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyclopropylphenyl)acetate (70 mg, 0.146 mmol) was diluted with dioxane (1 mL) followed by the addition of NaOH (0.293 ml, 1.46 mmol) and water (300 μL). After stirring for 3 hours, the reaction was diluted with ethyl acetate and 2N HCl. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated to yield 2-(4-(4-((4-chlorophenethyl) carbamoyl)phenoxy)-3-cyclopropylphenyl)acetic acid (50 mg, 75.9% yield) as a white solid. 1H NMR (400 MHz, CD3Cl3, CD3OD) 7.65 (d, 2H), 7.30 (d, 2H), 7.15 (d, 2H), 7.10 (d, 1H), 6.90 (m, 4H), 3.65 (1, 2H), 3.60 (s, 2H), 2.90 (t, 2H), 2.05 (m, 1H), 0.80 (m, 2H), 0.62 (m, 2H).

reactant | Ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyclopropylphenyl)acetate | 0.146 mmol, 70 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OCC)C3CC3)C=C2)C=C1 | C28H28ClNO4
reactant | NaOH | 1.46 mmol, 0.293 ml | [OH-].[Na+]
reactant | water | 300 μL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(4-(4-((4-chlorophenethyl) carbamoyl)phenoxy)-3-cyclopropylphenyl)acetic acid | 50 mg, 75.9% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)C3CC3)C=C2)C=C1 | C26H24ClNO4
